US05968938
To a stirred solution of 2-trifluoromethoxybenzoic acid (1.0 g, 5.2 mmol) in THF (25 mL) at 0° C. was added borane-THF complex (15 mL of a 1.0 M solution in THF, 15 mmol). The solution was warmed to ambient temperature and stirred for 14 h. The solvent was removed under reduced pressure and the residue was partitioned between EtOAc (75 mL) and saturated aqueous NaHCO3 (75 mL). The organic phase was dried (MgSO4), filtered and the solvent was removed under reduced pressure to give 2-trifluoromethoxybenzyl alcohol as a colorless liquid (TLC Rf =0.2 (1:3 EtOAc-hexanes)).

reactant | 2-trifluoromethoxybenzoic acid | 5.2 mmol, 1.0 g | FC(OC1=C(C(=O)O)C=CC=C1)(F)F | C8H5F3O3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-trifluoromethoxybenzyl alcohol | FC(OC1=C(CO)C=CC=C1)(F)F | C8H7F3O2
